US05463069
N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea (1.00 g) was added to 98% sulfuric acid (9.96 g) at room temperature with stirring, and the mixture was heated to 90° C. and stirred at the same temperature for 1.0 hour. After cooling, ice-water was added to the reaction mixture, which was then neutralized by addition of sodium carbonate and extracted with ethyl acetate. The organic layer was washed with water. The solvent was removed by distillation under reduced pressure, which afforded 0.835 g of 2-imino-3-(3-(trifluoromethyl)phenyl)-5-methyl-4-thiazoline as an oil (81% yield as a corrected value from the below-mentioned purity). From the results of analysis by liquid chromatography, the purity was determined to be 85%.

reactant | N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea | 1.00 g | FC(C=1C=C(C=CC1)N(C(=S)N)CC(=C)Cl)(F)F | C11H10ClF3N2S
reactant | sulfuric acid | 9.96 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-imino-3-(3-(trifluoromethyl)phenyl)-5-methyl-4-thiazoline | 0.835 g, 81% yield | N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C | C11H9F3N2S
